US07125901B2
A mixture of 2-(acetylamino)-1,3-thiazole-4-carboxylic acid (500 mg), tert-butyl 4-aminophenylcarbamate (615 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (566 mg), 1-hydroxybenzotriazole (399 mg) and dichloromethane (5 ml) was stirred at ambient temperature for 3 hours. The reaction mixture was washed with saturated aqueous sodium hydrogen bicarbonate, and the organic layer was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with 3% methanol/chloroform as an eluent. The crystalline residue was collected and washed with ethyl acetate to give tert-butyl 4-({[2-(acetylamino)-1,3-thiazol-4-yl]carbonyl}amino)phenylcarbamate (580 mg).

reactant | 2-(acetylamino)-1,3-thiazole-4-carboxylic acid | 500 mg | C(C)(=O)NC=1SC=C(N1)C(=O)O | C6H6N2O3S
reactant | tert-butyl 4-aminophenylcarbamate | 615 mg | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 566 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 399 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | tert-butyl 4-({[2-(acetylamino)-1,3-thiazol-4-yl]carbonyl}amino)phenylcarbamate | 580 mg | C(C)(=O)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H20N4O4S
